US07332499B2
To a solution of 2-chloro-6-fluorobenzyl alcohol (0.50 g, 3.1 mmol) in ether (5 mL) at −10 C was added trifluoromethyl sulphonyl chloride, followed by a mixture of triethylamine (0.411 mL, 3.88 mmol) and trimethylphosphite (0.458 mLm, 3.88 mmol)) in ether (5 mL). The resulting mixture was stirred for 16 hours at room temperature and then partitioned between ether and water. The organic extract was washed with aq. HCl (0.5N), sat. aq. NaHCO3 and dried (MgSO4). The solvent was evaporated in vacuo to afford 2-chloro-6-fluorobenzyl trifluoromethanesulfinate as an oil. 1H NMR (400 MHz, CDCl3)2δ 7.38 (1H, dt, J=6 and 8 Hz) 7.28 (1H, d, J=8 Hz), 7.08 (1H, dt, J=1, 8 Hz), 5.53 (1H, dd, J=1.8 and 11.1 Hz), 5.30 (1H, dd, J=0.7 and 11.1 Hz) ppm.

reactant | 2-chloro-6-fluorobenzyl alcohol | 3.1 mmol, 0.50 g | ClC1=C(CO)C(=CC=C1)F | C7H6ClFO
reactant | trifluoromethyl sulphonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | triethylamine | 3.88 mmol, 0.411 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylphosphite | 3.88 mmol | COP(OC)OC | C3H9O3P
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | 2-chloro-6-fluorobenzyl trifluoromethanesulfinate | FC(S(=O)OCC1=C(C=CC=C1F)Cl)(F)F | C8H5ClF4O2S
